US04786644
A solution of 4.08 g of 2-aminothiazole and 8.0 g of 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester in 250 ml of toluene was refluxed for 30 hours in a soxhlet apparatus containing 10 g of 4 Å molecular sieves. Evaporation of the volatiles afforded a residue which was purified by means of high pressure liquid chromatography (silica gel: 1:25 ethyl acetate-dichloromethane as the eluent). The resulant solution was degassed and evaporated. Recrystallization of the residue from diethyl ether yielded 6.35 g (67%) of 1,2-dihydro-4-hydroxy-1-phenyl-N-(2-thiazolyl)-3-quinolinecarboxamide, m.p. 220° C. (dec.).

reactant | 2-aminothiazole | 4.08 g | NC=1SC=CN1 | C3H4N2S
reactant | 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester | 8.0 g | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C18H17NO3
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-dihydro-4-hydroxy-1-phenyl-N-(2-thiazolyl)-3-quinolinecarboxamide | 6.35 g, 67% | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC=1SC=CN1 | C19H15N3O2S
